US04259336
4-Hydroxy-2-methyl-N-(6-methyl-2-pyridyl)-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1]-benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 2-amino-6-methyl-pyridine with a yield of 33% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1]-benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 2-amino-6-methyl-pyridine | NC1=NC(=CC=C1)C | C6H8N2
product | 4-Hydroxy-2-methyl-N-(6-methyl-2-pyridyl)-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 33% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC1=NC(=CC=C1)C | C18H15N3O4S2
